US04490392
2.3 g of 2-benzyloxyphenylglyoxal hydrate (crude oil) are dissolved in 6 ml of dimethylsulfoxide, and 2 g of α-methyl-3,4-dimethoxyphenethylamine are added thereto. The mixture is stirred at room temperature for 30 minutes, whereby a solution of α-(α-methyl-3,4-dimethoxyphenethylimino)-2-benzyloxyacetophenone in dimethylsulfoxide is obtained.

reactant | 2-benzyloxyphenylglyoxal hydrate | 2.3 g | O.C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(=O)C=O
reactant | α-methyl-3,4-dimethoxyphenethylamine | 2 g | CC(CC1=CC(=C(C=C1)OC)OC)N | C11H17NO2
solvent | dimethylsulfoxide | 6 ml | CS(=O)C | C2H6OS
product | α-(α-methyl-3,4-dimethoxyphenethylimino)-2-benzyloxyacetophenone | CC(CC1=CC(=C(C=C1)OC)OC)N=C(C(=O)C1=CC=CC=C1)OCC1=CC=CC=C1 | C26H27NO4
